US08278401B2
Synthesis of 4,6-dichlororesorcinol Diglycidyl Ether (DCRDGE):
4,6-Dichlororesorcinol (25 g, 0.14 mol), epichlorohydrin (129 g, 1.4 mol) and isopropyl alcohol (100 ml) were added to a three-neck round bottom flask equipped with a reflux condenser and a mechanic stirrer. A solution of sodium hydroxide (12 g) in water (14 g) was placed in an addition funnel. The flask contents were raised to 75° C. The sodium hydroxide solution was added over 6 hours while the reaction was held at 75° C. After the slow addition the reaction was held at 83° C. for an additional 2 hours. The material was filtered and the solvent was removed. The product was then redissolved in toluene and washed with deionized water. The product in toluene was collected after one wash and passed through a silica gel column. The product was collected by removal of the solvent. Yield 50%, mp 78° C., 1H NMR (CDCl3): δppm 2.7-2.9 (4H), 3.3 (2H), 3.9-4.3 (4H), 6.7-7.3 (2H).

reactant | 4,6-Dichlororesorcinol | 0.14 mol, 25 g | ClC1=C(C=C(O)C(=C1)Cl)O | C6H4Cl2O2
reactant | epichlorohydrin | 1.4 mol, 129 g | C(Cl)C1CO1 | C3H5ClO
reactant | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
solvent | water | 14 g | O | H2O
product | 4,6-dichlororesorcinol Diglycidyl Ether | Yield 50% | ClC12C(C(=C(O)C(=C1)Cl)C1C(COCC3C2O3)O1)O | C12H12Cl2O5
